* C:\Users\lugfe\Documents\GitHub\ASSD\TP1\Ejercicio 2\Simulacion\filtro no montecarlo.asc
XU1 N005 N007 VCC+ VCC- v1 TL082
V1 VCC+ 0 15
V2 0 VCC- 15
R2 N005 N002 62k
R3 N002 vi 62k
R4 v1 N007 5.1k
R5 N007 0 10k
C1 N005 0 1n
C2 v1 N002 1n
XU2 N006 N009 VCC+ VCC- v2 TL082
R1 N006 N003 44k
R6 N003 vi2 44k
R7 v2 N009 11.5k
R8 N009 0 10k
C3 N006 0 1n
C4 v2 N003 1n
XU3 N008 N010 VCC+ VCC- v3 TL082
R9 N008 N004 35k
R10 N004 vi3 35k
R11 v3 N010 16k
R12 N010 0 10k
C5 N008 0 1n
C6 v3 N004 1n
XU4 0 N001 VCC+ VCC- v4 TL082
R14 N001 vi4 10k
C8 v4 N001 7.9n
XU5 v1 vi2 VCC+ VCC- vi2 TL082
XU6 v2 vi3 VCC+ VCC- vi3 TL082
XU7 v3 vi4 VCC+ VCC- vi4 TL082
R17 N011 vo1 3.1k
R18 N015 N011 23.5k
C9 N015 N011 10n
R20 N013 N015 3.1k
XU8 0 N011 VCC+ VCC- N015 TL082
XU9 0 N013 VCC+ VCC- N014 TL082
XU10 0 N017 VCC+ VCC- N012 TL082
C10 N014 N013 10n
R19 N017 N014 10k
R21 N012 N017 10k
R22 N012 N011 3.1k
XU11 v4 vo1 VCC+ VCC- vo1 TL082
V3 vi 0 SINE(0 5) AC 1
R23 v4 N001 10k
XU12 0 N016 VCC+ VCC- vo TL082
R13 N016 N012 10.3k
R15 vo N016 1.2k
.inc "TL082.301"
.ac dec 1000 1m 50k
.backanno
.end
